US05891901
To a solution of sodium methoxide prepared from Na metal (8.65 g, 0.38 m) in methanol(200 mL) at 0°-5° C., was added a solution of 4-(methylthio)benzaldehyde (12.6 ml, 94.7 mmol) and methyl azidoacetate (44 g, 0.382 mol) in methanol (30 mL). After stirring at the same temperature for 3 hours, the suspension was diluted with H2O (300 mL). The solids were filtered, washed with water and dried under vacuum to provide 19.4 g (82.0%) of methyl-2-azido-3-(4-methylthiophenyl)propenoate as a yellow solid.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-(methylthio)benzaldehyde | 94.7 mmol, 12.6 ml | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | methyl azidoacetate | 0.382 mol, 44 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | H2O | 300 mL | O | H2O
product | methyl-2-azido-3-(4-methylthiophenyl)propenoate | 19.4 g, 82.0% | COC(C(=CC1=CC=C(C=C1)SC)N=[N+]=[N-])=O | C11H11N3O2S
